US04918070
340 mg (0.446 mmol) of p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate and 146 mg (0.557 mmol) of triphenylphosphine were dissolved in 7 ml of tetrahydrofuran, and a solution of tetrahydrofuran (3.5 ml) of 170 mg (0.446 mmol) of 4,5-bis(4-methoxybenzyloxy)-2-hydroxymethylpyridine was added thereto at -20° C. under nitrogen atmosphere. Then, a solution of 0.087 ml (0.55 mmol) of diethylazodicarboxylate in 3.5 ml of tetrahydrofuran was dropwise added to the solution at -20° C., and the mixture was stirred for 1 hour at the same temperature. 30 ml of ethylacetate was added thereto. The solution was washed sequentially with water, a lN hydrochloric acid aqueous solution, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate The solvent was distilled off, and the residue was purified by silica gel column chromatography (Wakogel C-300, elution with 1- 2% methanol-chloroform) to obtain 325 mg (yield: 64.8%) of p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-[3,4-bis(4-methoxybenzyloxy)-6-pyridylmethoxy]-3-cephem-4-carboxylate as a powder. 325 mg (0.289 mmol) of this powder was dissolved in 28 ml of methylene chloride, and a solution of 0.067 ml (0.592 mmol) of methyltrilrate in 2 ml of methylene chloride was dropwise added thereto at -20° C. under nitrogen atmosphere. The mixture was stirred for 1 hour at room temperature. The solvent was distilled off, and the residue was triturated to obtain 355 mg (yield: 95.2%) of p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl) -(Z)-2-methoxyiminoacetamido]-[3,4-bis(4-methoxybenzyloxy) -1-methyl-6-pyridiniomethoxy]-3-cephem-4-carboxylate trifluoromethanesulfonate as a powder. 355 mg (0.275 mmol) of this powder was dissolved in 429 mg (2.79 mmol) of 3-methyl-4-methylthiophenol, 2 ml of methylene chloride and 0.34 ml (2.5 mmol) of thioanisole, and 2 ml of trifluoroacetic acid was added thereto under cooling with ice. The mixture was stirred for 1 hour at room temperature. The solvent was distilled off, and ethyl ether was added to the residue to obtain the trifluoroacetate of the above-identified compound as a powder. This powder was dissolved in water and insolubles were filtered off. The filtrate was purified by reversed phase column chromatography (Chemco LC-SORB, SP-B-ODS, elution with 30% methanol aqueous solution) and freeze-dried to obtain 28.1 mg (yield: 19%) of the above-identified compound.

reactant | p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate | 0.446 mmol, 340 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C40H35N5O7S2
reactant | triphenylphosphine | 0.557 mmol, 146 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4,5-bis(4-methoxybenzyloxy)-2-hydroxymethylpyridine | 0.446 mmol, 170 mg | COC1=CC=C(COC2=CC(=NC=C2OCC2=CC=C(C=C2)OC)CO)C=C1 | C22H23NO5
reactant | diethylazodicarboxylate | 0.55 mmol, 0.087 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
product | p-methoxybenzyl 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-[3,4-bis(4-methoxybenzyloxy)-6-pyridylmethoxy]-3-cephem-4-carboxylate | 325 mg, yield: 64.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=CC(S2)OCC2=CC(=C(C=N2)OCC2=CC=C(C=C2)OC)OCC2=CC=C(C=C2)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C62H56N6O11S2
